US07524846B2
1-[2-(3-chlorophenyl)-2-cycloheptylethyl]piperazine dihydrochloride
In an analogous manner to Example 1, step 2, 1-[2-(3-chlorophenyl)-2-cyclohexylethyl]piperazine dihydrochloride was prepared from tert-butyl 4-[(3-chlorophenyl)(cycloheptyl)acetyl]piperazine-1-carboxylate MS (ES) m/z 321.2; HRMS: calcd for C19H29ClN2+H, 321.20975; found (ESI, [M+H]+), 321.2105.

reactant | 1-[2-(3-chlorophenyl)-2-cyclohexylethyl]piperazine dihydrochloride | Cl.Cl.ClC=1C=C(C=CC1)C(CN1CCNCC1)C1CCCCC1
reactant | tert-butyl 4-[(3-chlorophenyl)(cycloheptyl)acetyl]piperazine-1-carboxylate | ClC=1C=C(C=CC1)C(C(=O)N1CCN(CC1)C(=O)OC(C)(C)C)C1CCCCCC1 | C24H35ClN2O3
product | 1-[2-(3-chlorophenyl)-2-cycloheptylethyl]piperazine dihydrochloride | Cl.Cl.ClC=1C=C(C=CC1)C(CN1CCNCC1)C1CCCCCC1 | InChI=1S/C19H29ClN2.2ClH/c20-18-9-5-8-17(14-18)19(15-22-12-10-21-11-13-22)16-6-3-1-2-4-7-16;;/h5,8-9,14,16,19,21H,1-4,6-7,10-13,15H2;2*1H
